US05106526
Synthesis of 2,2,3,3-tetrafluoropropyl-p-toluenesulfonate.
406 grams of (3.08 mo) 2,2,3,3-tetrafluoropropanol, 613 gm (3.22 mol) tosyl chloride, and 1200 ml water were heated to 50° C. with mechanical stirring. Sodium hydroxide (139.7 gm, 3.5 ml) in 560 ml water was added at a rate such that the temperature remained less than 65° C. After the addition was completed, the mixture was stirred at 50° C. until the pH of the aqueous phase was 6. The mixture was cooled and extracted with 1.5 liters methylene chloride. The organic layer was washed twice with 200 ml aqueous ammonia, 350 ml water, dried with magnesium sulfate, and distilled to give 697.2 gm (79%) viscous oil.

reactant | 2,2,3,3-tetrafluoropropanol | FC(CO)(C(F)F)F | C3H4F4O
reactant | tosyl chloride | 3.22 mol, 613 gm | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Sodium hydroxide | 3.5 ml, 139.7 gm | [OH-].[Na+]
solvent | water | 560 ml | O | H2O
solvent | water | 1200 ml | O | H2O
product | 2,2,3,3-tetrafluoropropyl-p-toluenesulfonate | 697.2 gm, 79% | FC(COS(=O)(=O)C1=CC=C(C=C1)C)(C(F)F)F | C10H10F4O3S
